US08563575B2
134e) ethyl {2-[(4-nitrophenyl)amino]-3H-imidazo[4,5-b]pyridin-3-yl}acetate
A mixture of ethyl (2-chloro-3H-imidazo[4,5-b]pyridin-3-yl)acetate (2.8 g) and 4-nitroaniline (1.6 g) was stirred at 150° C. for 1 h to give the title compound (4.0 g).

reactant | ethyl (2-chloro-3H-imidazo[4,5-b]pyridin-3-yl)acetate | 2.8 g | ClC1=NC=2C(=NC=CC2)N1CC(=O)OCC | C10H10ClN3O2
reactant | 4-nitroaniline | 1.6 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
product | ethyl {2-[(4-nitrophenyl)amino]-3H-imidazo[4,5-b]pyridin-3-yl}acetate | 4.0 g | [N+](=O)([O-])C1=CC=C(C=C1)NC1=NC=2C(=NC=CC2)N1CC(=O)OCC | C16H15N5O4
